US05866562
2.2 g (5.8 mmol) of 1,4-dibenzyl-[1,4]-diazepan-6-carboxylic acid diethylamide are dissolved in 50 ml of ethanol and hydrogenated over 2 h at room temperature and normal pressure in the presence of 0.5 g of 10% palladium on activated charcoal. Filtration over kieselguhr gives an almost colorless filtrate from which [1,4]-diazepan-6-carboxylic acid diethylamide is obtained in the form of a light yellow oil by concentration under vacuum.

reactant | 1,4-dibenzyl-[1,4]-diazepan-6-carboxylic acid diethylamide | 5.8 mmol, 2.2 g | C(C)N(C(=O)C1CN(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1)CC | C24H33N3O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on activated charcoal | 0.5 g | [Pd] | Pd
product | [1,4]-diazepan-6-carboxylic acid diethylamide | C(C)N(C(=O)C1CNCCNC1)CC | C10H21N3O
